US06242601B1
6.3 g of dimethyl (2-methoxyphenoxy)malonate were added dropwise within 5 minutes under an argon atmosphere to a solution of 1.72 g of sodium in methanol (150 ml) at 5° C. Stirring was continued for 30 minutes (5° C.) then 7.85 g of m-benzyloxy-benzamidine tetrafluoroborate in methanol (50 ml) were added within 5 minutes at 5° C. and the mixture was then stirred for further 20 h at RT. The solvent was removed in vacuo and the residue partitioned between water and EtOAc (each 50 ml). The cold aqueous phase was acidified dropwise with conc. HCl the precipitate filtered off under suction, washed with water and dried under reduced pressure to give the desired 2-(3-benzyloxy-phenyl)-5-(2-methoxy-phenoxy)-pyrimidine-4,6-diol as an off-white solid, mp 192°-195° C.

reactant | dimethyl (2-methoxyphenoxy)malonate | 6.3 g | COC1=C(OC(C(=O)OC)C(=O)OC)C=CC=C1 | C12H14O6
reactant | sodium | 1.72 g | [Na] | Na
reactant | m-benzyloxy-benzamidine tetrafluoroborate | 7.85 g | F[B-](F)(F)F.C(C1=CC=CC=C1)OC=1C=C(C(=N)N)C=CC1
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-(3-benzyloxy-phenyl)-5-(2-methoxy-phenoxy)-pyrimidine-4,6-diol | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=NC(=C(C(=N1)O)OC1=C(C=CC=C1)OC)O | C24H20N2O5
